US07566707B2
4-amino-7-methyl-3H-imidazo[4,5-d]pyridazine
A mixture of 2.00 g 5-acetyl-3H-imidazole-4-carbonitrile and 4.00 ml hydrazine hydrate in 50 ml of ethanol is heated to 100° C., until the reaction is complete according to HPLC-MS. After cooling to ambient temperature the reaction mixture is evaporated down, stirred with 20 ml of cold ethanol and suction filtered. The filter cake is washed with diethyl ether and dried.

reactant | 5-acetyl-3H-imidazole-4-carbonitrile | 2.00 g | C(C)(=O)C1=C(NC=N1)C#N | C6H5N3O
reactant | hydrazine hydrate | 4.00 ml | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-amino-7-methyl-3H-imidazo[4,5-d]pyridazine | NC1=C2C(=C(N=N1)C)N=CN2 | C6H7N5
